US05318966
2.78 g (0.00973 mol) of rac-cis-3-cyclohexylmethyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-ol were dissolved in 50 ml of toluene. 1.97 g (2.71 ml, 0.01948 mol) of triethylamine and 120 mg (980 mmol, 0.1 eq.) of 4-dimethylaminopyridine were added thereto in succession and then 1.79 ml (0.01948 mol) of dimethyl chloroformamide were added dropwise thereto. The mixture was boiled under reflux for 2 hours, then cooled, poured into water and extracted with toluene. The organic phase was washed with water, dried with Na2SO4, filtered and concentrated. By chromatography of the residue over 220 g of silica gel with cyclohexane/ethyl acetate 1:1 there were obtained 3.3 g (95%) of oily rac-cis-3-cyclohexylmethyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-yl dimethylcarbamate.

reactant | rac-cis-3-cyclohexylmethyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-ol | 0.00973 mol, 2.78 g | C1(CCCCC1)CN1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)O | C19H27NO
reactant | triethylamine | 0.01948 mol, 2.71 ml, 1.97 g | C(C)N(CC)CC | C6H15N
reactant | dimethyl chloroformamide | 0.01948 mol, 1.79 ml | CC(=O)N(Cl)C | C3H6ClNO
reactant | water | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 980 mmol, 120 mg, 0.1 eq. | CN(C1=CC=NC=C1)C | C7H10N2
product | rac-cis-3-cyclohexylmethyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-yl dimethylcarbamate | 3.3 g, 95% | CN(C(OC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CC2CCCCC2)=O)C | C22H32N2O2
